US05968819
A solution of 2-chloro-4-phenylamino-quinazoline (0.92 g) (prepared as described in Example 1a and N-methyl-(4-aminophenyl)-methanesulfonamide (0.80 g) in 10 ml of isopentylalcohol is stirred under nitrogen at 170° C. for 15 min in a sealed vessel. The warm reaction mixture is diluted with 10 ml ethanol and the hydrochloride salt, which is crystallizing on cooling, is filtered off to yield N-methyl-[4-(4-phenylamino-quinazolin-2-ylamino)-phenyl]-methanesulfonamide hydrochloride as light yellow crystals melting at 259-263° C.; Rf (A2) 0.11, FAB-MS: (M+H)+ =420. Analytical data: C22H21N5O2S+HCl.

reactant | 2-chloro-4-phenylamino-quinazoline | 0.92 g | ClC1=NC2=CC=CC=C2C(=N1)NC1=CC=CC=C1 | C14H10ClN3
reactant | N-methyl-(4-aminophenyl)-methanesulfonamide | 0.80 g | CNS(=O)(=O)CC1=CC=C(C=C1)N | C8H12N2O2S
solvent | isopentylalcohol | 10 ml | C(CC(C)C)O | C5H12O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-methyl-[4-(4-phenylamino-quinazolin-2-ylamino)-phenyl]-methanesulfonamide hydrochloride | Cl.CNS(=O)(=O)CC1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)NC1=CC=CC=C1 | InChI=1S/C22H21N5O2S.ClH/c1-23-30(28,29)15-16-11-13-18(14-12-16)25-22-26-20-10-6-5-9-19(20)21(27-22)24-17-7-3-2-4-8-17;/h2-14,23H,15H2,1H3,(H2,24,25,26,27);1H
